US06673795B2
In analogy to the procedure described in example 47b, 4-chloro-2-(cyclopropylmethyl-amino)-6-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile was treated with 1-phenyl-piperazine in dioxane in the presence of N-ethyl-diisopropylamine at 100° C. to yield 2-(cyclopropylmethyl-amino)-4-(2-hydroxy-ethylamino)-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile as an amorphous, white solid; MS: [M+H]+=394.

reactant | 4-chloro-2-(cyclopropylmethyl-amino)-6-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)NCC1CC1 | C11H14ClN5O
reactant | 1-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(cyclopropylmethyl-amino)-4-(2-hydroxy-ethylamino)-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile | C1(CC1)CNC1=NC(=C(C(=N1)NCCO)C#N)N1CCN(CC1)C1=CC=CC=C1 | C21H27N7O
